US08937087B2
To a mixture of a mixture (501 mg) of tert-butyl {[5-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and tert-butyl {[6-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate and EtOH/water (1/1, 6 mL) was added 4 M hydrogen chloride/1,4-dioxane (6 mL), followed by heating and stirring at 80° C. for 5 hours and then concentrating under reduced pressure to obtain 1-(5-cyclopropyl-1H-benzimidazol-2-yl)-N-methylmethanamine dihydrochloride (328 mg).

reactant | tert-butyl {[5-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | 501 mg | C1(CC1)C1=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C=C1 | C19H27N3O3
reactant | tert-butyl {[6-cyclopropyl-1-(methoxymethyl)-1H-benzimidazol-2-yl]methyl}methylcarbamate | C1(CC1)C=1C=CC2=C(N(C(=N2)CN(C(OC(C)(C)C)=O)C)COC)C1 | C19H27N3O3
reactant | hydrogen chloride 1,4-dioxane | 4 M, 6 mL | Cl.O1CCOCC1
solvent | THF EtOH | 6 mL | C1CCOC1.CCO
product | 1-(5-cyclopropyl-1H-benzimidazol-2-yl)-N-methylmethanamine dihydrochloride | 328 mg | Cl.Cl.C1(CC1)C1=CC2=C(NC(=N2)CNC)C=C1 | InChI=1S/C12H15N3.2ClH/c1-13-7-12-14-10-5-4-9(8-2-3-8)6-11(10)15-12;;/h4-6,8,13H,2-3,7H2,1H3,(H,14,15);2*1H
